US07820665B2
To a 150 mL, round-bottomed flask was added 3-amino-5-bromo-2-chloropyridine (1 g, 5 mmol, Asymchem Laboratories, Morrisville, N.C.) and pyridine(10 mL). To this solution, 4-acetylbenzenesulfonyl chloride (2 g, 10 mmol, Sigma-Aldrich Corporation, St. Louis, Mo.) was added, the mixture was stirred at 25° C. for 15 h and at 100° C. for additional 2 h. The mixture was concentrated in high vacuo. The result brown oil was suspended in methanol (200 mL)-H2O (5 mL). To this suspension, K2CO3 (2 g, 14.4 mmol) was added and the mixture was stirred at 25° C. for 15 h. The methanol was removed in vacuum; the residue was treated with H2O. Filtration provided 4-acetyl-N-(5-bromo-2-chloropyridin-3-yl)benzenesulfonamide (0.5 g) as a brown solid. The filtrate was extracted by MeOH-DCM (10%) to provide additional 1.1 g of 4-acetyl-N-(5-bromo-2-chloropyridin-3-yl)benzenesulfonamide as a white solid. MS (ESI positive ion) m/z: 391 (M+1). 1H NMR (400 MHz, DMSO-d6): δ ppm 2.57 (s, 3H), 7.51-7.56 (m, 2H), 7.81 (d, J=8.41 Hz, 2H), 7.98 (d, J=8.41 Hz, 2H).

reactant | 3-amino-5-bromo-2-chloropyridine | 5 mmol, 1 g | NC=1C(=NC=C(C1)Br)Cl | C5H4BrClN2
reactant | 4-acetylbenzenesulfonyl chloride | 10 mmol, 2 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
reactant | K2CO3 | 14.4 mmol, 2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-acetyl-N-(5-bromo-2-chloropyridin-3-yl)benzenesulfonamide | 0.5 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Br)Cl | C13H10BrClN2O3S
